US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (3.50 mL, 1.40 mmol), 2-chloro-4-(phenylthio)pyridine (0.342 g, 1.54 mmol), potassium phosphate (0.327 g, 1.54 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.0321 g, 0.0350 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.0223 g, 0.0385 mmol) were reacted in toluene (4 mL) and water (1.5 mL) to afford 4-methyl-N-(4-(phenylthio)pyridin-2-yl)thiazol-2-amine (0.296 g, 69.8% yield) as off white solid. 1H NMR (CDCl3) δ 8.07 (d, 1H), 7.54 (m, 2H), 7.44 (m, 3H), 6.57 (dd, 1H), 6.45 (d, 1H), 6.32 (d, 1H), 2.24 (d, 3H); Mass spectrum (apci) m/z=300 (100) (M+H).

reactant | 4-methylthiazol-2-amine | 1.40 mmol, 3.50 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(phenylthio)pyridine | 1.54 mmol, 0.342 g | ClC1=NC=CC(=C1)SC1=CC=CC=C1 | C11H8ClNS
reactant | potassium phosphate | 1.54 mmol, 0.327 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 1.5 mL | O | H2O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0350 mmol, 0.0321 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.0385 mmol, 0.0223 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 4-methyl-N-(4-(phenylthio)pyridin-2-yl)thiazol-2-amine | 0.296 g, 69.8% yield | CC=1N=C(SC1)NC1=NC=CC(=C1)SC1=CC=CC=C1 | C15H13N3S2
